US07449477B2
2-(4-Nitro-benzyl)-oxirane
Add allyl tri-n-butylstannane (30.10 mmol, 9.33 ml) dropwise to a stirred solution of 4-iodo-nitrobenzene (5 g, 20.07 mmol), tetrakis-(triphenylphosphine) palladium(0) (1.16 g, 1 mmol) and copper (I) iodide (306 mg, 1.6 mmol) in 50 ml of dry 1,4-dioxane under argon atmosphere. Reflux the mixture for 24 hours and then cool to room temperature. Dilute the solution with 40 ml of diethyl ether and add 20 ml of saturated solution of KF and stir for 2 hours. Filter the mixture and wash the organic layer with water (20 ml), brine (20 ml) and dry over sodium sulfate. Evaporate the solution under reduced pressure and purify the residue by flash chromatography on silica gel using hexane-ethyl acetate as eluent (20:1) to afford 1.80 g (55%) of 1-allyl-4-nitrobenzene. Add a solution of 3-chloro-peroxybenzoic acid (5.98 g, 24.28 mmol), in 20 ml of dichloromethane to a solution of 1-allyl-4-nitro-benzene (1.8 g, 11.04 mmol) in 50 ml of dichloromethane and stir the mixture at room temperature overnight. Quench with saturated NaHCO3 (15 ml), and wash the organic layer three times with saturated NaHCO3 and dry over magnesium sulfate. Evaporate under reduced pressure to afford 1.4 g (71%) of the title compound.

reactant | 3-chloro-peroxybenzoic acid | 24.28 mmol, 5.98 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | 1-allyl-4-nitro-benzene | 11.04 mmol, 1.8 g | C(C=C)C1=CC=C(C=C1)[N+](=O)[O-] | C9H9NO2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 2-(4-Nitro-benzyl)-oxirane | 1.4 g, 71% | [N+](=O)([O-])C1=CC=C(CC2OC2)C=C1 | C9H9NO3
